US07365174B2
In an amount of 246 mg of (R)-1-amino-2-propanol was dissolved in 5 ml of 1,4-dioxane, added with 722 ml of 5 N aqueous sodium hydroxide, then added with 345 μl of ethyl chloroformate, and stirred at room temperature for 30 minutes. The reaction mixture was added with water, and extracted with ethyl acetate, and the organic layer was dried over anhydrous magnesium sulfate, and then filtered. The filtrate was concentrated under reduced pressure to obtain 465 mg of (R)-1-ethoxycarbonylamino-2-propanol. Physicochemical Properties of this Compound

reactant | sodium hydroxide | 5 N, 722 ml | [OH-].[Na+]
reactant | ethyl chloroformate | 345 μl | ClC(=O)OCC | C3H5ClO2
reactant | water | O | H2O
reactant | (R)-1-amino-2-propanol | 246 mg | NC[C@@H](C)O | C3H9NO
solvent | 1,4-dioxane | 5 ml | O1CCOCC1 | C4H8O2
product | (R)-1-ethoxycarbonylamino-2-propanol | 465 mg | C(C)OC(=O)NC[C@@H](C)O | C6H13NO3
